US07420090B2
This Example describes the preparation of 2-(3,5-dichlorophenoxy)-N-(1-methoxy-6-methylhept-4-yn-6-yl) butyramide (Compound No. 4 in Table 57)
To a stirred solution of sodium methoxide (prepared from sodium, 0.014 g) in methanol (2 ml) at ambient temperature was added 2-(3,5-dichlorophenoxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide (0.20 g) followed by further sodium methoxide (0.3 g) and sodium iodide (0.1 g). The mixture was stirred at ambient temperature under an atmosphere of nitrogen for 4 hours, heated to reflux for a total of 10 hours, cooled to ambient temperature then stored for 18 hours. The reaction mixture was diluted with water, extracted with ethyl acetate (three times) and the extracts were combined, washed with brine then evaporated under reduced pressure to give a yellow oil. The oil was fractionated by chromatography (silica; hexane/ethyl acetate, 3:1 by volume) to give the required product as a colourless oil, 0.055 g, 1H NMR (CDCl3) δ: 0.98-1.04(3H, t); 1.60(6H, s); 1.72-1.78(2H, m); 1.92-2.00(2H, m); 2.24-2.28((2H, t); 3.34(3H, s); 3.42-3.46(2H, t); 4.36-4.38(1H, t); 6.28(1H, s); 6.84(2H, s); 7.02(1H, s).

reactant | sodium methoxide | 0.014 g | C[O-].[Na+]
reactant | 2-(3,5-dichlorophenoxy)-N-(1-chloro-6-methylhept-4-yn-6-yl) butyramide | 0.20 g | ClC=1C=C(OC(C(=O)NC(C#CCCCCl)(C)C)CC)C=C(C1)Cl | C18H22Cl3NO2
reactant | sodium methoxide | 0.3 g | C[O-].[Na+]
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
product | 2-(3,5-dichlorophenoxy)-N-(1-methoxy-6-methylhept-4-yn-6-yl) butyramide | ClC=1C=C(OC(C(=O)NC(C#CCCCOC)(C)C)CC)C=C(C1)Cl | C19H25Cl2NO3
